US08420670B2
2-Methylpropane-1-sulfonic {2-[4-(3,4-dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-amide
Preparation was made using a similar procedure as described in example 21. Starting materials were [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride and isobutanesulfonyl chloride.

reactant | [8-(2-aminoethoxy)-2-methylquinolin-4-yl]-(3,4-dichlorobenzyl)-amine dihydrochloride | Cl.Cl.NCCOC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl
reactant | isobutanesulfonyl chloride | C(C(C)C)S(=O)(=O)Cl | C4H9ClO2S
product | 2-Methylpropane-1-sulfonic {2-[4-(3,4-dichlorobenzylamino)-2-methylquinolin-8-yloxy]-ethyl}-amide | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OCCNS(=O)(=O)CC(C)C)C)C=CC1Cl | C23H27Cl2N3O3S
